US08110581B2
2-Cyclohexyl-7-(2-fluorophenyl)-2,7-diazaspiro[4.5]decan-1-one
A mixture of 2-cyclohexyl-2,7-diazaspiro[4.5]decan-1-one hydrochloride (0.025 g, 0.000092 mol), 1-bromo-2-fluorobenzene (0.032 g, 0.00018 mol), and sodium tert-butoxide (0.026 g, 0.00027 mol) in DMSO (0.5 mL) was microwave irradiated at 180° C. for 5 min. After cooling the reaction mixture to ambient temperature the crude product was purified by prep.-HPLC. LC-MS: 331.2 (M+H)+.

reactant | 2-cyclohexyl-2,7-diazaspiro[4.5]decan-1-one hydrochloride | 0.000092 mol, 0.025 g | Cl.C1(CCCCC1)N1C(C2(CC1)CNCCC2)=O
reactant | 1-bromo-2-fluorobenzene | 0.00018 mol, 0.032 g | BrC1=C(C=CC=C1)F | C6H4BrF
reactant | sodium tert-butoxide | 0.00027 mol, 0.026 g | CC(C)([O-])C.[Na+]
solvent | DMSO | 0.5 mL | CS(=O)C | C2H6OS
product | 2-Cyclohexyl-7-(2-fluorophenyl)-2,7-diazaspiro[4.5]decan-1-one | C1(CCCCC1)N1C(C2(CC1)CN(CCC2)C2=C(C=CC=C2)F)=O | C20H27FN2O
